US07064123B1
A mixture comprised of 4-morpholin-4-yl-4-oxo-2-(2-trifluoromethyl-benzylsulfonylmethyl)-butyric acid (200 mg, 0.47 mmol), prepared as in reference 5, EDC (200 mg, 1.05 mmol), HOBt (200 mg, 1.3 mmol), and aminoacetonitrile hydrochloride (150 mg, 1.6 mmol) was treated with dichloromethyl (4 mL) and 4-methylmorpholine (0.5 mL). The mixture was stirred at ambient temperature for 2 hours. After dilution with ethyl acetate (150 mL), the solution was washed with water (30 mL), saturated aqueous NaHCO3 solution and brine, dried with magnesium sulfate and evaporated under vacuum. The product was crystallized from ethyl acetate/hexane to yield N-cyanomethyl-4-morpholin-4-yl-4-oxo-2-(2-trifluoromethyl-benzyl-sulfonylmethyl)-butyramide (156 mg) as a yellowish solid; 1H NMR: (DMSO) 8.87 (t, J=5.5 Hz, 1H), 7.81–7.57 (m, 4H), 4.74 (d, J=14.5 Hz, 1H), 4.67 (d, J=14.5 Hz, 1H), 4.13 (d, J=5.5 Hz, 2H), 3.63–3.26 (m, 11H), 2.75 (dd, J=6.4 Hz, J=16.8 Hz, 1H), 2.65 (dd, J=6.2 Hz, J=16.8 Hz, 1H); MS: (M++1) 462;

reactant | 4-morpholin-4-yl-4-oxo-2-(2-trifluoromethyl-benzylsulfonylmethyl)-butyric acid | 0.47 mmol, 200 mg | N1(CCOCC1)C(CC(C(=O)O)CS(=O)(=O)CC1=C(C=CC=C1)C(F)(F)F)=O | C17H20F3NO6S
reactant | EDC | 1.05 mmol, 200 mg
reactant | HOBt | 1.3 mmol, 200 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | aminoacetonitrile hydrochloride | 1.6 mmol, 150 mg | Cl.NCC#N
reactant | 4-methylmorpholine | 0.5 mL | CN1CCOCC1 | C5H11NO
product | N-cyanomethyl-4-morpholin-4-yl-4-oxo-2-(2-trifluoromethyl-benzyl-sulfonylmethyl)-butyramide | 156 mg | C(#N)CNC(C(CC(=O)N1CCOCC1)CS(=O)(=O)CC1=C(C=CC=C1)C(F)(F)F)=O | C19H22F3N3O5S
